US07420055B2
Synthesis of N-[4-Chloro-2-(6-methyl-pyridine-3-carbonyl)-phenyl]-4-(1-methyl-1-oxazol-4-yl-ethyl)-benzenesulfonamide
Following the general procedure for synthesis of N-arylbenzenesulfonamides, 63 mg (0.26 mmol) of (2-Amino-5-chloro-phenyl)-(6-methyl-pyridin-3-yl)-methanone and 50 mg (0.1 7 mmol) of 4-(1-Methyl-1-oxazol-4-yl-ethyl)-benzenesulfonyl chloride were combined in 0.8 ml of anhydrous pyridine at 60° C. to give, after purification, the title product as a pale yellow solid: 1H NMR (CDCl3): δ (ppm): 1.54 (s, 6H), 2.63 (s, 3H), 7.22-7.30 (m, 2H), 7.32 (m, 2H), 7.55 (m, 1H), 7.61-7.63 (m, 2H), 7.70-7.80 (m, 3H), 8.49 (d, 1H), 9.95 (s, 1H); MS: (M+H)/z=496.0.

reactant | (2-Amino-5-chloro-phenyl)-(6-methyl-pyridin-3-yl)-methanone | 0.26 mmol, 63 mg | NC1=C(C=C(C=C1)Cl)C(=O)C=1C=NC(=CC1)C | C13H11ClN2O
reactant | 4-(1-Methyl-1-oxazol-4-yl-ethyl)-benzenesulfonyl chloride | 7 mmol, 50 mg | CC(C)(C=1N=COC1)C1=CC=C(C=C1)S(=O)(=O)Cl | C12H12ClNO3S
solvent | pyridine | 0.8 ml | N1=CC=CC=C1 | C5H5N
product | N-[4-Chloro-2-(6-methyl-pyridine-3-carbonyl)-phenyl]-4-(1-methyl-1-oxazol-4-yl-ethyl)-benzenesulfonamide | ClC1=CC(=C(C=C1)NS(=O)(=O)C1=CC=C(C=C1)C(C)(C=1N=COC1)C)C(=O)C=1C=NC(=CC1)C | C25H22ClN3O4S
